US04496578
(4R)-3-[(2S)-S-(4-Acetylaminobenzoyl)-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid (Compound 27)
1.8 g of 4-acetylaminobenzoic acid is dissolved in 20 ml of dry tetrahydrofuran. To this solution, 1.4 ml of triethylamine is added. To this mixture, 1.3 ml of isobutyl chloroformate is added dropwise with stirring at -5° C. After ten minutes, to this solution, 20 ml of aqueous solution of 2.4 g of (4R)-3-[(2S)-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid and 1.4 ml of triethylamine is added, and the mixture is stirred at room temperature for 30 min. To this reaction solution, 40 ml of water is added, and the obtained mixture is washed with ethyl acetate. The aqueous layer is acidified with conc. hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to give oil, yield 4.1 g. The oil is purified by silica gel column chromatography to give the titled compound, yield 3.6 g (90%), mp. 206°-207° C. (methanol), [α]D27 -152.5° (c=1.0, methanol).

reactant | 4-acetylaminobenzoic acid | 1.8 g | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.3 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (4R)-3-[(2S)-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid | 2.4 g | SC[C@H](C(=O)N1CSC[C@H]1C(=O)O)C | C8H13NO3S2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | (4R)-3-[(2S)-S-(4-Acetylaminobenzoyl)-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid | C(C)(=O)NC1=CC=C(C(=O)SC[C@H](C(=O)N2CSC[C@H]2C(=O)O)C)C=C1 | C17H20N2O5S2
